US05843983
4-Fluoro-2-[2-(4-fluoro-3-methoxyphenyl)ethyl]phenol
547 mg of 4-fluoro-3-methoxybenzaldehyde, 1990 mg of 5-fluoro-2-methoxymethoxybenzyltriphenylphosphonium chloride (prepared as described in Preparation 8) and 0.58 ml of DBU were allowed to react together in 30 ml of acetonitrile, subsequently treated, and purified by silica gel column chromatography, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, in the same manner as described in Preparation 2, to give 948 mg of an oily substance. 936 mg of this oily substance were dissolved in 9 ml of a 1:2 by volume mixture of benzene and ethanol, and then 155 mg of tris-(triphenylphosphine)rhodium(I)chloride were added to the resulting solution. The resulting mixture was then stirred under a hydrogen atmosphere at atmospheric pressure and at 60° C. for 14 hours. A saturated aqueous solution of sodium hydrogen sulfite was then added to the reaction mixture and the mixture was then stirred for about 10 minutes. The resulting insoluble substances were then removed by filtration using a Celite (trade mark) filter aid. The filtrate was concentrated by evaporation under reduced pressure, and purified by silica gel column chromatography, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 785 mg (yield 73%) of the title compound as an oily substance.

reactant | 4-fluoro-3-methoxybenzaldehyde | 547 mg | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | 5-fluoro-2-methoxymethoxybenzyltriphenylphosphonium chloride | 1990 mg | [Cl-].FC=1C=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)OCOC
reactant | DBU | 0.58 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | C(C)O | C2H6O
catalyst | tris-(triphenylphosphine)rhodium(I)chloride | 155 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 4-Fluoro-2-[2-(4-fluoro-3-methoxyphenyl)ethyl]phenol | 785 mg, yield 73% | FC1=CC(=C(C=C1)O)CCC1=CC(=C(C=C1)F)OC | C15H14F2O2
